US06683096B2
Preparation of 2-(2-{4-[7- bromo-1-(2-ethoxy-ethyl)-1H-indol-3-yl]-piperidin-1-yl}-ethoxy)-benzoic acid
This compound was prepared following the procedure described in Example 138 (part B) starting with 1.4 g (3.1 mmol) of 2-{2-[4-(7-bromo-1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid methyl ester (prepared as in Example 138, part A), 0.16 g (3.7 mmol) of NaH in 60% of mineral oil and 0.42 mL (3.7 mmol) of bromoethylethyl ether. The crude mixture was hydrolised following the procedure described in Example 138 (part C) and purified by chromatography over silica gel affording 0.34 g (28% of yield) of the desired product.

reactant | 2-{2-[4-(7-bromo-1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid methyl ester | 3.1 mmol, 1.4 g | COC(C1=C(C=CC=C1)OCCN1CCC(CC1)C1=CNC2=C(C=CC=C12)Br)=O | C23H25BrN2O3
reactant | NaH | 3.7 mmol, 0.16 g | [H-].[Na+]
reactant | bromoethylethyl ether | 3.7 mmol, 0.42 mL | BrCCOCC | C4H9BrO
product | 2-(2-{4-[7- bromo-1-(2-ethoxy-ethyl)-1H-indol-3-yl]-piperidin-1-yl}-ethoxy)-benzoic acid | BrC=1C=CC=C2C(=CN(C12)CCOCC)C1CCN(CC1)CCOC1=C(C(=O)O)C=CC=C1 | C26H31BrN2O4
